US05885986
A stream of hydrogen sulphide was passed for 1 hr. through a solution of 10.2 g (0.429 mol) of 5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carbonitrile in 250 ml of pyridine and 2.5 ml of triethylamine. The green solution was left to stand for 48 hrs., then de-gassed with a stream of nitrogen and subsequently completely freed from the solvents. The residue was partitioned between dichloromethane and water and the suspension obtained was suction filtered. There were obtained 9.0 g (87%) of 5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-thiocarboxamide as yellow crystals. A sample was recrystallized from methanol and gave pale yellow crystals; m.p. 295°-297°.

reactant | hydrogen sulphide | S | H2S
reactant | 5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carbonitrile | 0.429 mol, 10.2 g | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C#N | C13H10N4O
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
product | 5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-thiocarboxamide | 9.0 g, 87% | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C(N)=S | C13H12N4OS
